2133-05-06 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cont valium overnight
   - HD stable
   Allergies:
   Librium (Oral) (Chlordiazepoxide Hcl)
   Hives; swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2133-5-6**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-6**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 63 (54 - 105) bpm
   BP: 138/71(87) {101/71(85) - 161/107(118)} mmHg
   RR: 10 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  4,243 mL
                  PO:
                                                                    270 mL
                  TF:
   IVF:
                                                                  1,973 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    830 mL
   Urine:
                                                                  1,165 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,753 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Oriented (to): self, date,
   Movement: Not assessed, Tone: Not assessed, Tremulous, uncooperative
   for full neuro exam
   Labs / Radiology
   189 K/uL
   13.0 g/dL
   100 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   14 mg/dL
   106 mEq/L
   142 mEq/L
   38.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2133-5-6**]  04:42 AM
   WBC
   14.1
   Hct
   38.7
   Plt
   189
   Cr
   0.7
   Glucose
   100
   Other labs: PT / PTT / INR:13.0/29.0/1.1, ALT / AST:48/67, Alk Phos / T
   Bili:68/0.7, Differential-Neuts:91.4 %, Lymph:4.4 %, Mono:4.1 %,
   Eos:0.0 %, Albumin:4.1 g/dL, LDH:326 IU/L, Ca++:8.8 mg/dL, Mg++:2.9
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   57 yo M with ETOH abuse who presents with ETOH withdrawal.
   #  Delirium Tremens/Alcohol withdrawal/Alcohol abuse:  Currently, VS
   are stable.  Appears to be having hallucinations (picking).
   - cont Valium PO per CIWA q1 hr
   - Received banana bag in ED, transition to oral folate, thiamine,
   multivitamins
   - Social work consult
   - will plan to call out once pt requiring benzo
s q4hrs or greater
   #  Delirium:  Likely from withdrawal and BZD.  ?Wernicke
   encephalopathy.  Not intoxicated by alcohol.  No history of other
   substance abuse.  Tox screen neg.  MRI/CT head in [**2-6**] showed mild
   brain atrophy and small vessel disease.
   - serial mental status checks
   #  Mild leukocytosis:  Likely stress reaction and steroids.  No
   localizing s/sxs of infection.  Afebrile.  U/A neg.
   - Monitor for s/sxs of infection
   - CXR
   #  Mild acute renal failure:  Likely from dehydration.  Normalized
   creatinine
   - Monitor Cr
   - IVFs:  NS
   #  Allergic reaction:  No current hives/rash, ? allergy
   - cont. prednisone course, d/c steroids
   - will add Librium to allergy list.
   #  h/o Printzmetal
s angina:  ECG without ischemic changes.  No
   complaints of chest pain.
   - cont. ASA 325
   - hold dilt, atenolol for now (previous h/o hypotension on last
   admission)
   #  Depression:  Currently denies SI.
   - cont. celexa
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-5-5**] 05:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-05-07 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued high valium IV/PO requirement up to valium 15iv q15
   Allergies:
   Librium (Oral) (Chlordiazepoxide Hcl)
   Hives; swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2133-5-6**] 03:05 PM
   Heparin Sodium (Prophylaxis) - [**2133-5-6**] 10:31 PM
   Diazepam (Valium) - [**2133-5-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-7**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 84 (61 - 123) bpm
   BP: 128/66(81) {108/38(55) - 224/178(188)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 72.4 kg
   Height: 67 Inch
             Total In:
                                                                    904 mL
                                                                    843 mL
   PO:
                                                                    300 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    604 mL
                                                                    723 mL
   Blood products:
   Total out:
                                                                  1,848 mL
                                                                    535 mL
   Urine:
                                                                  1,848 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -945 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: normal to increased
   Respiratory / Chest: Expansion: Symmetric, Breath Sounds clear
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No rash:
   Neurologic: Oriented to: self, date, not place; Tremulous,
   uncooperative for full neuro exam
   Labs / Radiology
   218 K/uL
   12.8 g/dL
   72 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   16 mg/dL
   107 mEq/L
   144 mEq/L
   37.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2133-5-6**]  04:42 AM
                             [**2133-5-7**]  03:27 AM
   WBC
   14.1
   9.4
   Hct
   38.7
   37.6
   Plt
   189
   218
   Cr
   0.7
   0.7
   Glucose
   100
   72
   Other labs: PT / PTT / INR:13.0/29.0/1.1, ALT / AST:71/102, Alk Phos /
   T Bili:69/0.9, Differential-Neuts:91.4 %, Lymph:4.4 %, Mono:4.1 %,
   Eos:0.0 %, Albumin:4.1 g/dL, LDH:339 IU/L, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57 yo M with ETOH abuse who presents with ETOH withdrawal.
   #  Delirium Tremens/Alcohol withdrawal/Alcohol abuse:  Currently, VS
   are stable, however they can fluctuate with episodes to tremors.
   Appears to be having hallucinations (picking).
   - cont Valiumper CIWA, prefer PO over IV
   - Received banana bag in ED, transitioned to oral folate, thiamine,
   multivitamins
   - Social work consult
   - will plan to call out once pt requiring benzo
s q4hrs or less
   frequent
   #  Delirium:  Likely from withdrawal and BZD.  ?Wernicke
   encephalopathy.  Not intoxicated by alcohol.  No history of other
   substance abuse.  Tox screen neg.  MRI/CT head in [**2-6**] showed mild
   brain atrophy and small vessel disease.
   - serial mental status checks
   - can use PRN low dose haldol for purely delirious symptoms
   #  Mild leukocytosis:  Likely stress reaction and steroids.  No
   localizing s/sxs of infection.  Afebrile.  U/A neg. CXR not showing
   PNA.
   - Monitor for s/sxs of infection
   #  Mild acute renal failure:  Likely from dehydration.  Normalized
   creatinine
   - Monitor Cr
   - IVFs PRN
   #  Allergic reaction:  No current hives/rash, ? allergy
   - no steroids at this time
   #  h/o Printzmetal
s angina:  ECG without ischemic changes.  No
   complaints of chest pain.
   - cont. ASA 325
   - BP is in acceptable range when not agitated, holding dilt, atenolol
   for now (previous h/o hypotension on last admission)
   #  Depression:  Currently denies SI.
   - cont. celexa
   DISPO: plan to stay in ICU until requiring benzos q4h or less
   frequently with stabilized vital signs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-5-6**] 08:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-05-08 07:41:00 Physician Resident Progress Note
Chief Complaint: Alcohol withdrawal
   24 Hour Events:
   - Patient received diazepam at 0800, 1200, and 1600 then had
   accelerating need with tachycardia and tremulousness throughout the
   night. Began needing IV diazepam to supplement PO 20 mg Q1H dosing.
   - K returned at 2.8 in the morning, 60 mEq K ordered, and PM lytes
   ordered
   Patient reports feeling well and denies anxiety at this time.
   Allergies:
   Librium (Oral) (Chlordiazepoxide Hcl)
   Hives; swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2133-5-7**] 11:00 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-8**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 67 (65 - 123) bpm
   BP: 116/73(83) {99/70(60) - 215/179(188)} mmHg
   RR: 13 (10 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 72.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,697 mL
                                                                  1,196 mL
   PO:
                                                                  1,140 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,557 mL
                                                                    956 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    830 mL
   Urine:
                                                                  1,735 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,962 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   Physical Examination
   GEN: NAD, appears flushed and diaphoretic
   HEENT: PERRL, EOMI, tounge fasciculations
   NECK: supple, no LAD
   PULM: CTAB anteriorly
   CARD: Tachycardic, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, NT, ND
   EXT: in restraints, no C/C/E
   NEURO: Oriented to hospital, struggles with date
   PSYCH: Hallucinations
   Labs / Radiology
   224 K/uL
   13.0 g/dL
   121 mg/dL
   0.7 mg/dL
   28 mEq/L
   2.8 mEq/L
   11 mg/dL
   103 mEq/L
   139 mEq/L
   39.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2133-5-6**]  04:42 AM
                             [**2133-5-7**]  03:27 AM
                             [**2133-5-8**]  03:12 AM
   WBC
   14.1
   9.4
   7.5
   Hct
   38.7
   37.6
   39.0
   Plt
   189
   218
   224
   Cr
   0.7
   0.7
   0.7
   Glucose
   100
   72
   121
   Other labs: PT / PTT / INR:13.0/29.0/1.1, ALT / AST:69/95, Alk Phos / T
   Bili:68/0.7, Differential-Neuts:91.4 %, Lymph:4.4 %, Mono:4.1 %,
   Eos:0.0 %, Albumin:3.8 g/dL, LDH:302 IU/L, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57 yo M with ETOH abuse who presents with ETOH withdrawal.
   #  Delirium Tremens/Alcohol withdrawal/Alcohol abuse:
   Overnight had accelerating need for diazepam and heart rate of 130s
   associated with increased BP and hallucinations. Was given multiple IV
   doses of diazepam to bring him back into control overnight.
   - Diazepam 20 mg PO every hour for CIWA > 10
   - For increased agitation should receive 20 mg diazepam IV every 15
   minutes as needed
   - Patient should be awoken at least every two hours to assess for
   ongoing benzo need and level of sedation given large benzo requirement
   thus far
   - Will plan to call out once pt requiring benzo
s q4hrs or less
   frequent
   - Received banana bag in ED, transitioned to oral folate, thiamine,
   multivitamins
   - Social work consult in place, follow-up
   #  Mild leukocytosis:
   Has been trending down steadily since admission. Was likely stress
   reaction and steroids.  No localizing s/sxs of infection.  Afebrile.
   U/A neg. CXR not showing PNA.
   - Monitor for s/sxs of infection
   #  h/o Printzmetal
s angina:
   ECG without ischemic changes.  No complaints of chest pain.
   - Cont. ASA 325
   - BP is in acceptable range when withdrawal well-controlled, holding
   dilt, atenolol for now (previous h/o hypotension on last admission)
   #  Depression:  Currently denies SI.
   - cont. celexa
   ICU Care
   Nutrition: Clear liquid diet
   Glycemic Control:  None needed at this time
   Lines:
   18 Gauge - [**2133-5-6**] 08:25 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: Omeprazole
   Communication: With patient and his wife
   [**Name (NI) 156**] status: FULL
   Disposition: plan to stay in ICU until requiring benzos q4h or less
   frequently with stabilized vital signs

2133-05-09 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Required approximately q2hour valium dosing with improved mental
   status. Still disoriented.
   - Potassium repletion for K of 2.8
   Allergies:
   Librium (Oral) (Chlordiazepoxide Hcl)
   Hives; swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2133-5-8**] 09:10 PM
   Haloperidol (Haldol) - [**2133-5-8**] 09:32 PM
   Heparin Sodium (Prophylaxis) - [**2133-5-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-9**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 74 (63 - 104) bpm
   BP: 124/77(89) {93/18(32) - 163/124(120)} mmHg
   RR: 11 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.6 kg (admission): 72.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,943 mL
                                                                  1,055 mL
   PO:
                                                                    970 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,973 mL
                                                                    935 mL
   Blood products:
   Total out:
                                                                  3,110 mL
                                                                    680 mL
   Urine:
                                                                  3,110 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    833 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GEN: NAD, appears flushed and diaphoretic
   HEENT: PERRL, EOMI, tounge fasciculations
   NECK: supple, no LAD
   PULM: CTAB anteriorly
   CARD: Tachycardic, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, NT, ND
   EXT: in restraints, no C/C/E
   NEURO: Oriented to hospital, struggles with date
   PSYCH: Hallucinations
   Labs / Radiology
   240 K/uL
   12.4 g/dL
   82 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.3 mEq/L
   8 mg/dL
   106 mEq/L
   140 mEq/L
   38.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2133-5-6**]  04:42 AM
                             [**2133-5-7**]  03:27 AM
                             [**2133-5-8**]  03:12 AM
                             [**2133-5-8**]  02:33 PM
                             [**2133-5-9**]  03:49 AM
   WBC
   14.1
   9.4
   7.5
   6.2
   Hct
   38.7
   37.6
   39.0
   38.3
   Plt
   189
   218
   224
   240
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   Glucose
   100
   72
   121
   89
   82
   Other labs: PT / PTT / INR:14.4/30.1/1.3, ALT / AST:57/72, Alk Phos / T
   Bili:65/0.6, Differential-Neuts:91.4 %, Lymph:4.4 %, Mono:4.1 %,
   Eos:0.0 %, Albumin:3.6 g/dL, LDH:252 IU/L, Ca++:8.8 mg/dL, Mg++:1.8
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   57 yo M with ETOH abuse who presents with ETOH withdrawal.
   #  Delirium Tremens/Alcohol withdrawal/Alcohol abuse:
   Presented in acute alcohol withdrawl.  Overnight and on first day of
   admission had accelerating need for diazepam and heart rate of 130s
   associated with increased BP and hallucinations. Was given multiple IV
   doses of diazepam to bring him back into control overnight.  Continues
   on frequent valium dosing.
   - Diazepam 20 mg PO every hour for CIWA > 10
   - For increased agitation should receive 20 mg diazepam IV every 15
   minutes as needed
   - Patient should be awoken at least every two hours to assess for
   ongoing benzo need and level of sedation given large benzo requirement
   thus far
   - Will plan to call out once pt requiring benzo
s q4hrs or less
   frequent
   - Received banana bag in ED, transitioned to oral folate, thiamine,
   multivitamins
   - Social work consult in place, follow-up
   #  Mild leukocytosis:
   Has been trending down steadily since admission. Was likely stress
   reaction and steroids.  No localizing s/sxs of infection.  Afebrile.
   U/A neg. CXR not showing PNA.
   - Monitor for s/sxs of infection
   #  h/o Printzmetal
s angina:
   ECG without ischemic changes.  No complaints of chest pain.
   - Cont. ASA 325
   - BP is in acceptable range when withdrawal well-controlled, holding
   dilt, atenolol for now (previous h/o hypotension on last admission)
   #  Depression:  Currently denies SI.
   - cont. celexa
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-5-6**] 08:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-05-09 08:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Librium (Oral) (Chlordiazepoxide Hcl)
   Hives; swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2133-5-8**] 09:10 PM
   Haloperidol (Haldol) - [**2133-5-8**] 09:32 PM
   Heparin Sodium (Prophylaxis) - [**2133-5-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-9**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 74 (63 - 104) bpm
   BP: 124/77(89) {93/18(32) - 163/124(120)} mmHg
   RR: 11 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.6 kg (admission): 72.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,943 mL
                                                                  1,228 mL
   PO:
                                                                    970 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,973 mL
                                                                  1,108 mL
   Blood products:
   Total out:
                                                                  3,110 mL
                                                                    680 mL
   Urine:
                                                                  3,110 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    833 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   240 K/uL
   82 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.3 mEq/L
   8 mg/dL
   106 mEq/L
   140 mEq/L
   38.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2133-5-6**]  04:42 AM
                             [**2133-5-7**]  03:27 AM
                             [**2133-5-8**]  03:12 AM
                             [**2133-5-8**]  02:33 PM
                             [**2133-5-9**]  03:49 AM
   WBC
   14.1
   9.4
   7.5
   6.2
   Hct
   38.7
   37.6
   39.0
   38.3
   Plt
   189
   218
   224
   240
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   Glucose
   100
   72
   121
   89
   82
   Other labs: PT / PTT / INR:14.4/30.1/1.3, ALT / AST:57/72, Alk Phos / T
   Bili:65/0.6, Differential-Neuts:91.4 %, Lymph:4.4 %, Mono:4.1 %,
   Eos:0.0 %, Albumin:3.6 g/dL, LDH:252 IU/L, Ca++:8.8 mg/dL, Mg++:1.8
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 .H/O ATRIAL FLUTTER (AFLUTTER)
 .H/O DEPRESSION
 DELIRIUM / CONFUSION
 BRADYCARDIA
 HYPERTENSION, BENIGN
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-5-6**] 08:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: